US08975282B2
3-chloro-4-(4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)-3-fluorophenoxy)picolinamide
A mixture of N-(2-fluoro-4-hydroxyphenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide (300 mg, 0.879 mmol) and t-BuOK (118 mg, 1.05 mmol) in DMF (3 mL) was stirred at rt for 30 minutes, then 3,4-dichloropicolinamide (201 mg, 1.05 mmol) was added. The reaction mixture was heated to 120° C. and stirred for 12 hours. EtOAc (1 mL) and H2O (20 mL) were added, and the resulted mixture was stirred at rt overnight. Filtered to give the title compound as a brown solid (379 mg, 87.0%).

reactant | N-(2-fluoro-4-hydroxyphenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 0.879 mmol, 300 mg | FC1=C(C=CC(=C1)O)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C18H16FN3O3
reactant | t-BuOK | 1.05 mmol, 118 mg | CC(C)(C)[O-].[K+]
reactant | 3,4-dichloropicolinamide | 1.05 mmol, 201 mg | ClC=1C(=NC=CC1Cl)C(=O)N | C6H4Cl2N2O
reactant | EtOAc | 1 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | H2O | 20 mL | O | H2O
product | 3-chloro-4-(4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)-3-fluorophenoxy)picolinamide | 379 mg, 87.0% | ClC=1C(=NC=CC1OC1=CC(=C(C=C1)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O)F)C(=O)N | C24H19ClFN5O4
